* C:\users\maximilianb\Documents\Uni\Master\ECP\exercises\exercise_4\lab\ltspicelab\3 - bit adder\1bit_exact_adder.asc
R1 N028 0 {R_g}
V1 N006 0 PWL file=b2.csv
V2 N009 0 PWL file=w1.csv
V3 N007 0 PWL file=a3.csv
V4 N001 0 PWL file=w2.csv
V5 N008 0 PWL file=b3.csv
XX8 b2 N006 N014 vteam_knowm params: w_init=3n
XX1 a3 N007 N015 vteam_knowm params: w_init=3n
XX2 b3 N008 N016 vteam_knowm params: w_init=3n
XX3 s1 N009 N017 vteam_knowm params: w_init=3n
XX4 s2 N001 N026 vteam_knowm params: w_init=3n
S6 N028 N014 N022 0 MYSW
S7 N028 N015 N023 0 MYSW
S8 N028 N016 N024 0 MYSW
S9 N028 N017 N025 0 MYSW
V10 N022 0 PWL file=b2_sw2.csv
V12 N023 0 PWL file=a3_sw2.csv
V13 N024 0 PWL file=b3_sw2.csv
V14 N025 0 PWL file=w1_sw2.csv
V15 N027 0 PWL file=w2_sw2.csv
S10 N028 N026 N027 0 MYSW
V6 N005 0 PWL file=a2.csv
XX5 a2 N005 N013 vteam_knowm params: w_init=3n
S1 N028 N013 N021 0 MYSW
V7 N021 0 PWL file=a2_sw2.csv
V8 N004 0 PWL file=b.csv
XX6 b1 N004 N012 vteam_knowm params: w_init=3n
S2 N028 N012 N020 0 MYSW
V9 N020 0 PWL file=b_sw2.csv
V11 N003 0 PWL file=a.csv
XX7 a1 N003 N011 vteam_knowm params: w_init=3n
S3 N028 N011 N019 0 MYSW
V16 N019 0 PWL file=a_sw2.csv
V17 N002 0 PWL file=c.csv
XX9 c N002 N010 vteam_knowm params: w_init=3n
S4 N028 N010 N018 0 MYSW
V18 N018 0 PWL file=c_sw2.csv

* block symbol definitions
.subckt vteam_knowm s Vp Vn
B1 0 w I=G_on(V(Vp,Vn))*f_on(V(w))
B2 0 w I=G_off(V(Vp,Vn))*f_off(V(w))
C1 w 0 1
D1 w N003 idealD
D2 N004 w idealD
V1 N003 0 {w_off}
V2 N004 0 {w_on}
R1 N001 0 {R_on}
Fv N002 Vn Bm -1
Bm N001 0 V=vs(V(Vp,Vn),V(w))
E1 s 0 w 0 {1/w_off}
R2 Vp N002 1µ
.param k_off=0.01 v_off=700m alpha_off=3 R_off=1000k w_off=3n
.param k_on=-0.5n v_on=-10m alpha_on=3 R_on=10k w_on=0
.param w_c=100p a_off=3n a_on=0n
.func f_off(w) {exp(-exp( (w-a_off)/w_c))}
.func f_on(w) {exp(-exp( -(w-a_on)/w_c))}
.func G_off(v) {k_off*pow( (v/v_off-1),alpha_off)*u(v-v_off)}
.func G_on(v) {k_on*pow( (v/v_on-1) ,alpha_on)*u(v_on-v)}
.func vs(v,w) {v/(1+(lambda-1)*(w_off-w)/(w_off-w_on))}
.param lambda=(R_off/R_on)
.ic V(w)={w_init}
.model idealD D(Ron=1f Roff=100G Vfwd=0.1f)
.param w_init=0.01n
.func vs1(v,w) {v*  exp( -ln(lambda)*(w_off-w)/(w_off-w_on) ) }
.ends vteam_knowm

.model D D
.lib C:\users\maximilianb\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3000.001u
.model MYSW SW(Ron=1n Roff=1000meg Vt=.5)
.param R_g=40k
.backanno
.end
