* C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\3bit_approx_adder.asc
XX12 a0 N002 N005 vteam_knowm params: w_init=3n
XX13 a1 N003 N005 vteam_knowm params: w_init=3n
XX14 a2 N001 N005 vteam_knowm params: w_init=3n
XX15 b0 N010 N015 vteam_knowm params: w_init=3n
XX16 b1 N011 N015 vteam_knowm params: w_init=3n
XX17 b2 N012 N015 vteam_knowm params: w_init=3n
XX18 s0 N004 N005 vteam_knowm params: w_init=3n
XX19 s1 N013 N015 vteam_knowm params: w_init=3n
XX20 c N014 N015 vteam_knowm params: w_init=3n
V23 N002 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\a0.csv"
V24 N003 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\a1.csv"
V25 N001 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\a2.csv"
V26 N004 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\w0.csv"
V27 0 N013 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\w1.csv"
V28 N014 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\c.csv"
V29 N012 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\b2.csv"
V30 N011 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Exact Adder\pwl_files\b1.csv"
V31 N010 0 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\b0.csv"
V32 0 N016 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\b0_sw.csv"
V33 0 N008 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\a0_sw.csv"
V34 N007 N006 PWL file="C:\Users\Pranjal\Documents\Project-ECP\Approx Adder\pwl_files\w0_sw.csv"
S12 N009 N005 N008 0 MYSW
S13 N017 N015 N016 0 MYSW
S14 N015 N005 N006 N007 MYSW
R2 N017 0 {R_g}
R3 N009 0 {R_g}

* block symbol definitions
.subckt vteam_knowm s Vp Vn
B1 0 w I=G_on(V(Vp,Vn))*f_on(V(w))
B2 0 w I=G_off(V(Vp,Vn))*f_off(V(w))
C1 w 0 1
D1 w N003 idealD
D2 N004 w idealD
V1 N003 0 {w_off}
V2 N004 0 {w_on}
R1 N001 0 {R_on}
Fv N002 Vn Bm -1
Bm N001 0 V=vs(V(Vp,Vn),V(w))
E1 s 0 w 0 {1/w_off}
R2 Vp N002 1µ
.param k_off=0.01 v_off=700m alpha_off=3 R_off=1000k w_off=3n
.param k_on=-0.5n v_on=-10m alpha_on=3 R_on=10k w_on=0
.param w_c=100p a_off=3n a_on=0n
.func f_off(w) {exp(-exp( (w-a_off)/w_c))}
.func f_on(w) {exp(-exp( -(w-a_on)/w_c))}
.func G_off(v) {k_off*pow( (v/v_off-1),alpha_off)*u(v-v_off)}
.func G_on(v) {k_on*pow( (v/v_on-1) ,alpha_on)*u(v_on-v)}
.func vs(v,w) {v/(1+(lambda-1)*(w_off-w)/(w_off-w_on))}
.param lambda=(R_off/R_on)
.ic V(w)={w_init}
.model idealD D(Ron=1f Roff=100G Vfwd=0.1f)
.param w_init=0.01n
.func vs1(v,w) {v*  exp( -ln(lambda)*(w_off-w)/(w_off-w_on) ) }
.ends vteam_knowm

.model D D
.lib C:\Users\Pranjal\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3000.001u
.model MYSW SW(Ron=1n Roff=1000meg Vt=.5)
.param R_g=40k
.backanno
.end
